US07368471B2
[1-(4-tert-Butylbenzyl)-5-(4-tert-butylphenyl)-1H-indol-3-yl](oxo)acetic acid
The title compound was prepared from 1-[4-(tert-butyl)benzyl]-5-[4-(tert-butyl)phenyl]-1H-indole and oxalyl chloride in substantially the same manner, as described in Step 3 of Example 25. The product was obtained as a light brown solid, mp: 111-112° C. Mass spectrum (ESI, [M+H]+) m/z 468; 1HNMR (400 MHz, DMSO-d6): δ 13.50 (br s, 1H), 8.70 (s, 1H), 8.40 (s, 1H), 7.68 (d, 1H, J=8.55 Hz), 7.58-7.54(m, 3H), 7.48 (d, 2H, J=8.40 Hz), 7.36 (d, 2H, J=8.25 Hz), 7.25 (d, 2H, J=8.40 Hz), 5.56 (s, 2H), 1.31 (s, 9H), and 1.22 ppm (s, 9H). Elemental Analysis for C31H33NO3.0.2 H2O: Calculated: C, 79.02; H, 7.14; N, 2.97. Found: C, 78.97; H, 7.22; N, 2.90.

reactant | 1-[4-(tert-butyl)benzyl]-5-[4-(tert-butyl)phenyl]-1H-indole | C(C)(C)(C)C1=CC=C(CN2C=CC3=CC(=CC=C23)C2=CC=C(C=C2)C(C)(C)C)C=C1 | C29H33N
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | H2O | O | H2O
product | [1-(4-tert-Butylbenzyl)-5-(4-tert-butylphenyl)-1H-indol-3-yl](oxo)acetic acid | C(C)(C)(C)C1=CC=C(CN2C=C(C3=CC(=CC=C23)C2=CC=C(C=C2)C(C)(C)C)C(C(=O)O)=O)C=C1 | C31H33NO3
